US04514571
The procedures of Example 1 were repeated except that 5-t-butyl-3-isoxazolylcarboxamide and methylamine were replaced with n-butyramide and aniline, respectively, to give N-propyl-N'-phenylurea in 46.70% yield.

reactant | 5-t-butyl-3-isoxazolylcarboxamide | C(C)(C)(C)C1=CC(=NO1)C(=O)N | C8H12N2O2
reactant | methylamine | CN | CH5N
reactant | n-butyramide | C(CCC)(=O)N | C4H9NO
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | N-propyl-N'-phenylurea | 46.70% yield | C(CC)NC(=O)NC1=CC=CC=C1 | C10H14N2O
